US07470705B2
(+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2,5-dimethyl-2H-pyrazole-3-carbonyl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester
Add a solution of 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (50 mg, 0.31 mmol) in dry dichloromethane (0.5 mL) to a solution of 4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (159 mg, 0.28 mmol) in dry dichloromethane (2 mL) and pyridine (0.045 mL, 0.56 mmol) at 0° C. Stir the mixture at room temperature for 3 h. Add a solution of 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (57 mg, 0.36 mmol) in dry dichloromethane (0.5 mL) and stir the mixture overnight. Remove the solvents under reduced pressure and purify the residue by silica gel flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (106 mg, 56%). MS (ES+): 680 (M+H).

reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.31 mmol, 50 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
reactant | 4-(3,5-bis-trifluoromethyl-benzylamino)-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.28 mmol, 159 mg | C(C)(C)OC(=O)N1C(CC(C2=NC(=CC=C12)C(F)(F)F)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C24H24F9N3O2
reactant | pyridine | 0.56 mmol, 0.045 mL | N1=CC=CC=C1 | C5H5N
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.36 mmol, 57 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(2,5-dimethyl-2H-pyrazole-3-carbonyl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-quinoline-1-carboxylic acid isopropyl ester | 106 mg, 56% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C(F)(F)F)N(C(=O)C=1N(N=C(C1)C)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C31H31F9N4O3
